US07582773B2
Step 6: Synthesis of 1-Benzyl-3-pentyl-2-phenyl-5-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole.
The desired product was prepared using a procedure similar to step 6 of example 3. Thus, [4-(1-benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile (0.252 g, 0.520 mmol) was reacted with NaN3 (0.169 g, 2.6 mmol) and NH4Cl (0.139 g, 2.6 mmol) in DMF (5 ml) to give the product (0.137 g, 0.260 mmol, 50%) as a white solid, mp 165-168° C. 1H NMR (DMSO-d6) δ 0.76 (t, J=7.0 Hz, 3H), 1.15-1.22 (m, 4H), 1.53-1.59 (m, 2H), 2.68 (t, J=7.5 Hz, 2H), 5.27 (s, 2H), 5.52 (s, 2H), 6.83 (d, J=7.2 Hz, 2H), 7.13-7.16 (m, 3H), 7.20 (t, J=6.9 Hz, 2H), 7.34-7.38 (m, 4H), 7.43 (t, J=7.0 Hz, 1H), 7.48 (t, J=6.9 Hz, 2H), 7.63 (d, J=8.6 Hz, 2H), 7.77 (S; 1H), 16.79 (broad s, 1H); IR (solid) 3030, 2920, 2850, 1605, 1520, 1480, 1260 and 1240 cm−1; [ESI(−)], m/z 527 (M−H)−; Anal. Calcd. for C34H33N5O: C, 77.39; H, 6.30; N, 13.27; Found: C, 77.34; H, 6.33; N, 13.30.

reactant | [4-(1-benzyl-3-pentyl-2-phenyl-1H-indol-5-yl)-phenoxy]-acetonitrile | 0.520 mmol, 0.252 g | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(OCC#N)C=C1)CCCCC)C1=CC=CC=C1 | C34H32N2O
reactant | NaN3 | 2.6 mmol, 0.169 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 2.6 mmol, 0.139 g | [NH4+].[Cl-]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-Benzyl-3-pentyl-2-phenyl-5-[4-(1H-tetrazol-5-ylmethoxy)-phenyl]-1H-indole | C(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OCC1=NN=NN1)CCCCC)C1=CC=CC=C1 | C34H33N5O
